US06555577B1
(E)-3-(5′-Isopropyl-2′-methoxy-biphenyl-4-yl)-acrylic acid ethyl ester was reduced by DIBAL-H by a procedure analogous to that described in example 52b to give (E)-3-(5′-isopropyl-2′-methoxy-biphenyl-4-yl)-prop-2-en-1-ol.

reactant | (E)-3-(5′-Isopropyl-2′-methoxy-biphenyl-4-yl)-acrylic acid ethyl ester | C(C)OC(\C=C\C1=CC=C(C=C1)C1=C(C=CC(=C1)C(C)C)OC)=O | C21H24O3
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
product | (E)-3-(5′-isopropyl-2′-methoxy-biphenyl-4-yl)-prop-2-en-1-ol | C(C)(C)C=1C=CC(=C(C1)C1=CC=C(C=C1)/C=C/CO)OC | C19H22O2
